US09340556B2
To a solution of 7-((4-methoxybenzyl)oxy)-3,4-dihydro-1H-pyrido[1,2-a]pyrazine-1,8(2H)-dione (4.15 g, 13.82 mmol) in N,N-dimethylformamide (DMF) (50 mL) was added sodium hydride (1.382 g, 34.5 mmol) at 0° C., and the mixture was stirred at room temperature for 30 min. Then the mixture of 1-(2-chloroethyl)pyrrolidine, hydrochloride (Aldrich) (2.90 g, 17.03 mmol) and triethylamine (2.438 mL, 17.49 mmol) in N,N-dimethylformamide (DMF) (25.00 mL) was added. The reaction was stirred at 50° C. for 30 h. The solvent was evaporated and the residue was dissolved in water (50 mL) and extracted with dichloromethane (50 mL) three times. The organic phase was dried over anhydrous sodium sulfate, filtered and evaporated to afford light yellow crude product, which was then purified by normal phase automatic silica column chromatography (Combiflash RF), eluting with dichloromethane/methanol/ammonium hydroxide (v:v:v=80:20:2) over 16 min to afford 7-((4-methoxybenzyl)oxy)-2-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-1H-pyrido[1,2-a]pyrazine-1,8(2H)-dione (3 g, 7.55 mmol, 54.6% yield) as light yellow solid. LCMS (M+H)+: 398.0.

reactant | 7-((4-methoxybenzyl)oxy)-3,4-dihydro-1H-pyrido[1,2-a]pyrazine-1,8(2H)-dione | 13.82 mmol, 4.15 g | COC1=CC=C(COC=2C(C=C3N(CCNC3=O)C2)=O)C=C1 | C16H16N2O4
reactant | sodium hydride | 34.5 mmol, 1.382 g | [H-].[Na+]
reactant | 1-(2-chloroethyl)pyrrolidine, hydrochloride | 17.03 mmol, 2.90 g | Cl.ClCCN1CCCC1
reactant | triethylamine | 17.49 mmol, 2.438 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25.00 mL | CN(C=O)C | C3H7NO
product | 7-((4-methoxybenzyl)oxy)-2-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-1H-pyrido[1,2-a]pyrazine-1,8(2H)-dione | 7.55 mmol, 3 g, 54.6% yield | COC1=CC=C(COC=2C(C=C3N(CCN(C3=O)CCN3CCCC3)C2)=O)C=C1 | C22H27N3O4
